US06034127
d) 2-Chlorobenzenesulfonic acid 3-hydroxyphenyl ester
2-Chlorobenzenesulfonic acid 3-benzyloxyphenyl ester (3.75 g, 10 mmol), as prepared in the preceding step, Pd/C (10%) (350 mg) in tetrahydrofuran (80 mL) was hydrogenated balloon) for 3 h. The catalyst was filtered through Celite and washed with tetrahydrofuran. The combined tetrahydrofuran solution was evaporated in vacuo and the residue was then purified by flash column chromatography (methylene chloride) to give the title compound as a colorless oil (2.75 g, 95%). 1H-NMR (300 MHz, CDCl3) δ 6.68 (m, 3H), 7.12 (t, 1H, J=6.5 Hz), 7.37 (t, 1H, J=7.1 Hz), 7.60 (m, 2H), 7.94 (dd, 1H, J=0.6, 4.0 Hz).

reactant | 2-Chlorobenzenesulfonic acid 3-benzyloxyphenyl ester | 10 mmol, 3.75 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C19H15ClO4S
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 350 mg | [Pd] | Pd
product | 2-Chlorobenzenesulfonic acid 3-hydroxyphenyl ester | 2.75 g, 95% | OC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C12H9ClO4S
